US07544835B2
Dimethyl 2-[3-({[(2-chloroanilino)carbonyl]oxy}-methyl)-4-ethoxybenzyl]malonate
Using dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate and 2-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate | C(C)OC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CO | C15H20O6
reactant | 2-chlorophenylisocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | Dimethyl 2-[3-({[(2-chloroanilino)carbonyl]oxy}-methyl)-4-ethoxybenzyl]malonate | ClC1=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2OCC)C=CC=C1 | C22H24ClNO7
